US07700589B2
48h) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid [(R)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide
A mixture of 500 mg (1.02 mmol) (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid, 350 mg (1.09 mmol) TBTU, 0.19 mL (1.08 mmol) ethyldiisopropylamine and 30 mL THF was stirred for 30 min at RT, then combined with 195 mg (1.06 mmol) 1-methyl-4-piperidin-4-yl-piperazin and stirred overnight. The reaction mixture was poured onto 100 mL of a 15% K2CO3 solution and extracted twice with DCM. The combined organic extracts were dried, evaporated down under reduced pressure and the residue was purified by chromatography on silica gel. The product fractions were evaporated down under reduced pressure, the residue was triturated with diisopropylether, suction filtered and dried.

reactant | (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid | 1.02 mmol, 500 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC1=CC=3CCCCC3C=C1)C=CC=C2 | C28H34N4O4
reactant | TBTU | 1.09 mmol, 350 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 1.08 mmol, 0.19 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-methyl-4-piperidin-4-yl-piperazin | 1.06 mmol, 195 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid [(R)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide | CN1CCN(CC1)C1CCN(CC1)C([C@@H](CC1=CC=2CCCCC2C=C1)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)=O | C38H53N7O3
